US04225315
To a magnetically stirred suspension of 9.7 g. (40 mmol) of 1-(2',6'-dimethylphenyl)amidinourea hydrochloride in 50 ml. of CH3CN at room temperature is added 5.7 g. (48 mmol) of N,N-dimethylformamide dimethylacetal. The reaction mixture is stirred for 10 minutes after which all of the solid material goes into solution. The solution is stirred for 5 minutes after which a seed crystal is added. A white solid precipitates. The reaction mixture is stirred for an additional 1.5 hours, after which the solid precipitate is filtered to yield 1-(2',6' -dimethylphenyl)-4-amino-1,2-dihydro-1,3,5-triazin-2-one, melting point 248.5°-249.5° C. When recrystallized from absolute EtOH the product is obtained as a white solid with melting point 258.6°-259° C.

reactant | 1-(2',6'-dimethylphenyl)amidinourea hydrochloride | 40 mmol | Cl.CC1=C(C(=CC=C1)C)NC(=N)NC(=O)N
reactant | N,N-dimethylformamide dimethylacetal | 48 mmol | COC(N(C)C)OC | C5H13NO2
solvent | CH3CN | CC#N | C2H3N
product | 1-(2',6' -dimethylphenyl)-4-amino-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)N)=O | C11H12N4O
